US04022833
In a manner similar to that of Example 1, condensation of 1-undecene oxide (104.6 g.) and 1,3-propanediamine (22.7 g.) and two recrystallizations of the resulting product from methanol gave N,N'-(1,3-propylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = H, X= (CH2)3, Z= H) (29.0 g., m.p. 94.0°-103.0° C.).

reactant | 1-undecene oxide | 104.6 g | C1C(CCCCCCCCC)O1 | C11H22O
reactant | 1,3-propanediamine | 22.7 g | C(CCN)N | C3H10N2
solvent | methanol | CO | CH4O
product | N,N'-(1,3-propylene)-bis[2-hydroxyundecylamine] | C(CCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C25H54N2O2
